US07105533B2
Ethyl 2-(3-methoxy-4-pyridin-2-ylphenyl)pyrazolo[1,5-a]pyridin-3-carboxylate (25 mg, 0.013 mmol) was treated with 40% sulfuric acid (1 mL), and the reaction mixture was heated to 100° C. for 12 h. The cooled reaction mixture was diluted with a solution of saturated aqueous sodium carbonate (25 mL), and the product was extracted into CH2Cl2 (3×20 mL), dried (MgSO4) and concentrated to afford 2-(3-methoxy-4-pyridin-2-ylphenyl)pyrazolo[1,5-a]pyridine.

reactant | Ethyl 2-(3-methoxy-4-pyridin-2-ylphenyl)pyrazolo[1,5-a]pyridin-3-carboxylate | 0.013 mmol, 25 mg | COC=1C=C(C=CC1C1=NC=CC=C1)C1=NN2C(C=CC=C2)=C1C(=O)OCC | C22H19N3O3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | sodium carbonate | 25 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(3-methoxy-4-pyridin-2-ylphenyl)pyrazolo[1,5-a]pyridine | COC=1C=C(C=CC1C1=NC=CC=C1)C1=NN2C(C=CC=C2)=C1 | C19H15N3O
